US07202363B2
N-{4-[4-amino-7-(1H-pyrrol-2-yl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide
The title compound was prepared using N-{4-[4-Amino-7-(5-formyl-2-furyl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide, diethylamine, and the procedure described in General Procedure B.

reactant | N-{4-[4-Amino-7-(5-formyl-2-furyl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C=2OC(=CC2)C=O | C29H22N4O4S
reactant | diethylamine | C(C)NCC | C4H11N
product | N-{4-[4-amino-7-(1H-pyrrol-2-yl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C=2NC=CC2 | C28H23N5O2S
